2176-11-30 05:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2176-11-29**] 04:02 PM
 STOOL CULTURE - At [**2176-11-29**] 04:02 PM
   - BRBPR x 3
   - hct did not rise appropriately after 2 units so given 2 units more
   - hct still low, so given additional 2 units
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2176-11-29**] 10:13 PM
   Ciprofloxacin - [**2176-11-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-11-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Patient feels stronger today
   Flowsheet Data as of  [**2176-11-30**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 87 (70 - 96) bpm
   BP: 91/43(56) {85/40(50) - 130/70(83)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  2,688 mL
                                                                    593 mL
   PO:
           TF:
   IVF:
                                                                    480 mL
                                                                    258 mL
   Blood products:
                                                                  1,208 mL
                                                                    335 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,388 mL
                                                                    593 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Gen: Pleasant, well appearing gentleman with no apparent distress
   HEENT: Conjunctiva pallor. No icterus. MMM. OP clear.
   NECK: Supple, JVP not elevated.
   CV: RRR. nl S1, S2. I/VI systolic murmur best heard at RUSB
   LUNGS: CTAB, good BS BL, No W/R/C
   ABD: BS present, Distended with fluid waves.  soft and nontender. EXT:
   WWP, 3+ BLE edema
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   76 K/uL
   7.5 g/dL
   238 mg/dL
   1.8 mg/dL
   20 mEq/L
   5.0 mEq/L
   40 mg/dL
   111 mEq/L
   136 mEq/L
   21.5 %
   5.7 K/uL
        [image002.jpg]
                            [**2176-11-29**]  03:47 PM
                            [**2176-11-29**]  11:34 PM
                            [**2176-11-30**]  12:14 AM
                            [**2176-11-30**]  01:28 AM
   WBC
   18.1
   5.3
   6.4
   5.7
   Hct
   20.2
   20.3
   20.4
   21.5
   Plt
   191
   84
   82
   76
   Cr
   1.8
   Glucose
   238
   Other labs: PT / PTT / INR:17.7/31.1/1.6, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   # GI bleed: The patient has known ulcerative colitis and was finishing
   a prednisone burst taper when his bleeding began.  Bleeding is most
   likely secondary to the friable lesion found on flex sigmoidoscopy on
   [**11-22**].  He has remained hemodynamically stable despite a significant
   hematocrit drop.  He had 3 episodes of BRBPR on [**11-29**], each with about
   50 cc of blood.   He has now received 6 units of PRBCs since
   admission.  Poor hematocrit response likely secondary to
   dehydration/volume contraction on admission and continued bleeding.
   Hepatology scoped patient in unit this morning: evidence of portal
   hypertensive gastropathy and previous attempts at cautery.  Patient
   needs TIPS to decompress venous congestion.  Will plan for procedure on
   [**12-2**] unless patient begins to bleed acutely and become HD unstable in
   the interim and requires urgent TIPS.  No evidence of active UC.  A
   villous adenoma was seen in the colon, but will wait to ressect until
   after TIPS.
   - will check post-transfusion hct; if <27, transfuse again & recheck
   hct; if >27 will recheck hct in 6 hours.
   - monitor on telemetry for hemodynamic stability.
   - solumedrol can be quickly tapered off
   - continue mesalamine
   - continue flagyl/cipro
   - hepatology following
   .
   # Cirrhosis [**2-3**] NASH:  Has increasing ascities.  Baseline coagulopathy.
   - Liver team is aware, appreciate recommendations.
   - continue ursodial
   .
   # Anemia: Baseline mid to low 30s.  Last HCT on [**11-12**] was 32.2.  ?
   secondary to GIB.  Needed transfusions in the past.  No known CHF.
   - plan as above for acute GIB.
   .
   # Thrombocytopenia: Baseline is 50-70s, likely secondary to
   NASH/cirrhosis/splenomegaly.  Drop is likely secondary to dehydration
   on admission and volume resuscitation with blood products.  Will
   continue to monitor.
   .
   # Leukocytosis with normal diff: Patient afebrile.  No abdominal
   tenderness.  Lactate down to 1.9 by yesterday afternoon.  Lipase down
   to 32.  C. diff negative.  Additional stool studies, blood, & urine
   cultures still pending.  These changes are most likely due to
   ulcerative colitis flare as well as volume contraction as mentioned
   above.
   - f/u blood & urine cultures
   - f/u stool studies
   - cont. ciprofloxacin and flagyl for possible GI infection
   - Diagnostic perotoneal tap if abdominal exam changes per liver recs
   .
   # CRI: BL Cr 1.8-2.1.  Currently at BL.  Unclear etiology but have DM
   2, HTN and cirrhosis.
   - Trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   # DM2:  Last HbA1c on [**10-9**] was 7.1.  Elevated finger sticks.
   - ISS
   .
   # FEN: NPO for now.  Will consider mIVF later in the day if patient is
   not receiving further blood products.
   .
   # PPx: PPI
   .
   # CODE: Full Code confirmed with patient
   .
   # COMM: Daughter [**First Name4 (NamePattern1) 2476**] [**Last Name (NamePattern1) 2477**] [**Telephone/Fax (1) 2478**]
   .
   # DISP: ICU until at least after TIPS.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2176-11-29**] 10:50 AM
   20 Gauge - [**2176-11-29**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-11-30 09:46:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2176-11-29**] 04:02 PM
 STOOL CULTURE - At [**2176-11-29**] 04:02 PM
   -Patient with continued BRBPR over past 24 hours (3 bowel movements)
   and given 6 units PRBC in past 24 hours
   -Solumedrol increased to 60mg q 8 hours
   -Cipro/Flagyl started
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-11-30**] 04:00 AM
   Metronidazole - [**2176-11-30**] 08:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-11-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2176-11-30**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 71 (70 - 96) bpm
   BP: 113/59(73) {85/40(50) - 130/70(83)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  2,688 mL
                                                                    995 mL
   PO:
           TF:
   IVF:
                                                                    480 mL
                                                                    446 mL
   Blood products:
                                                                  1,208 mL
                                                                    549 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,388 mL
                                                                    995 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   76 K/uL
   238 mg/dL
   1.8 mg/dL
   20 mEq/L
   5.0 mEq/L
   40 mg/dL
   111 mEq/L
   136 mEq/L
   21.5 %
   5.7 K/uL
        [image002.jpg]
                            [**2176-11-29**]  03:47 PM
                            [**2176-11-29**]  11:34 PM
                            [**2176-11-30**]  12:14 AM
                            [**2176-11-30**]  01:28 AM
   WBC
   18.1
   5.3
   6.4
   5.7
   Hct
   20.2
   20.3
   20.4
   21.5
   Plt
   191
   84
   82
   76
   Cr
   1.8
   Glucose
   238
   Other labs: PT / PTT / INR:17.7/31.1/1.6, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   64 yo male with h/o cirrhosis and recent diagnosis of U/C now admitted
   with reasonably brisk lower GI bleed with substantial transfusion
   requirements.  He has had HCT stabilized at 21 in the setting of 6
   units PRBC in past 24 hours.  This is in the absence of significant
   evidence of upper GI blood loss--specifically no nausea, vomiting,
   hematemesis
 DIABETES MELLITUS (DM), TYPE I
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
Given continued need for transfusion will have to consider early
   intervention with colonoscopy. Co-existing conditions of interest will
   have to be treated as well
   -Cirrhosis-Chronic and associated with NASH.  SBP very unlikely with
   absence of abdominal tenderness
   Protonix
   -Ursodiol
   Ulcerative Colitis
   Cipro/Flagy-For possible infection in the setting of flare of U/C
   -Continue with solumedrol
   GI Bleed-
   -Will discuss with hepatology timing of intervetion
   ICU Care
   Nutrition: IVF given npo status
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2176-11-29**] 10:50 AM
   20 Gauge - [**2176-11-29**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2176-12-01 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2176-11-30**] 10:29 AM
   sigmoidoscopy. Diffuse bleeding noted, GI suggested TIPS for Monday as
   portal HTN likely contributing to bleed. Urgent TIPS if bleeds again.
   appropriately bumped Hct then had more BRBPR and dropped Hct to 22.9,
   got 2 more units
   Scoped by GI who thought was not UC flare. Recommended TIPS, urgently
   if rebleeds
   Seen and consented by IR
   Had low UOP 20cc/hr x 10hrs, no hypotension but given 500cc fluid bolus
   w/ blood- UOP improved and started on 200cc/hr NS X1 L then 125cc/hr.
   Started octreotide drip
   Continued BRBPR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-12-1**] 04:00 AM
   Metronidazole - [**2176-12-1**] 04:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2176-11-30**] 10:29 AM
   Insulin - Humalog - [**2176-12-1**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   + lightheadedness on standing
   Flowsheet Data as of  [**2176-12-1**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 81 (66 - 87) bpm
   BP: 102/39(54) {90/35(52) - 137/70(79)} mmHg
   RR: 15 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  3,311 mL
                                                                  1,059 mL
   PO:
             TF:
   IVF:
                                                                  1,456 mL
                                                                  1,059 mL
   Blood products:
                                                                  1,855 mL
   Total out:
                                                                    420 mL
                                                                    250 mL
   Urine:
                                                                    420 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,891 mL
                                                                    809 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   59 K/uL
   9.3 g/dL
   198 mg/dL
   1.9 mg/dL
   17 mEq/L
   4.8 mEq/L
   50 mg/dL
   108 mEq/L
   135 mEq/L
   26.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2176-11-29**]  03:47 PM
                            [**2176-11-29**]  11:34 PM
                            [**2176-11-30**]  12:14 AM
                            [**2176-11-30**]  01:28 AM
                            [**2176-11-30**]  10:07 AM
                            [**2176-11-30**]  03:33 PM
                            [**2176-12-1**]  01:42 AM
   WBC
   18.1
   5.3
   6.4
   5.7
   10.3
   7.4
   Hct
   20.2
   20.3
   20.4
   21.5
   26.6
   22.9
   26.5
   Plt
   191
   84
   82
   76
   99
   59
   Cr
   1.8
   1.9
   Glucose
   238
   198
   Other labs: PT / PTT / INR:19.8/31.0/1.8, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   # GI bleed: The patient has known ulcerative colitis and was finishing
   a prednisone burst taper when his bleeding began.  Bleeding is most
   likely secondary to the friable lesion found on flex sigmoidoscopy on
   [**11-22**].  He has remained hemodynamically stable despite a significant
   hematocrit drop.  He had 3 episodes of BRBPR on [**11-29**], each with about
   50 cc of blood.   He has now received 6 units of PRBCs since
   admission.  Poor hematocrit response likely secondary to
   dehydration/volume contraction on admission and continued bleeding.
   Hepatology scoped patient in unit this morning: evidence of portal
   hypertensive gastropathy and previous attempts at cautery.  Patient
   needs TIPS to decompress venous congestion.  Will plan for procedure on
   [**12-2**] unless patient begins to bleed acutely and become HD unstable in
   the interim and requires urgent TIPS.  No evidence of active UC.  A
   villous adenoma was seen in the colon, but will wait to ressect until
   after TIPS.
   - will check post-transfusion hct; if <27, transfuse again & recheck
   hct; if >27 will recheck hct in 6 hours.
   - monitor on telemetry for hemodynamic stability.
   - solumedrol can be quickly tapered off
   - continue mesalamine
   - continue flagyl/cipro
   - hepatology following
   .
   # Cirrhosis [**2-3**] NASH:  Has increasing ascities.  Baseline coagulopathy.
   - Liver team is aware, appreciate recommendations.
   - continue ursodial
   .
   # Anemia: Baseline mid to low 30s.  Last HCT on [**11-12**] was 32.2.  ?
   secondary to GIB.  Needed transfusions in the past.  No known CHF.
   - plan as above for acute GIB.
   .
   # Thrombocytopenia: Baseline is 50-70s, likely secondary to
   NASH/cirrhosis/splenomegaly.  Drop is likely secondary to dehydration
   on admission and volume resuscitation with blood products.  Will
   continue to monitor.
   .
   # Leukocytosis with normal diff: Patient afebrile.  No abdominal
   tenderness.  Lactate down to 1.9 by yesterday afternoon.  Lipase down
   to 32.  C. diff negative.  Additional stool studies, blood, & urine
   cultures still pending.  These changes are most likely due to
   ulcerative colitis flare as well as volume contraction as mentioned
   above.
   - f/u blood & urine cultures
   - f/u stool studies
   - cont. ciprofloxacin and flagyl for possible GI infection
   - Diagnostic perotoneal tap if abdominal exam changes per liver recs
   .
   # CRI: BL Cr 1.8-2.1.  Currently at BL.  Unclear etiology but have DM
   2, HTN and cirrhosis.
   - Trend Cr
   - avoid nephrotoxins
   - renally dose meds
   .
   # DM2:  Last HbA1c on [**10-9**] was 7.1.  Elevated finger sticks.
   - ISS
   .
   # FEN: NPO for now.  Will consider mIVF later in the day if patient is
   not receiving further blood products.
   .
   # PPx: PPI
   .
   # CODE: Full Code confirmed with patient
   .
   # COMM: Daughter [**First Name4 (NamePattern1) 2476**] [**Last Name (NamePattern1) 2477**] [**Telephone/Fax (1) 2478**]
   .
   # DISP: ICU until at least after TIPS.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2176-11-29**] 10:50 AM
   20 Gauge - [**2176-12-1**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-12-01 08:53:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 COLONOSCOPY - At [**2176-11-30**] 10:29 AM
   sigmoidoscopy. I mg versed given
   -Diffuse bleeding consistent with consequences of portal HTN seen on
   sigmoidoscopy yesterday
   -Patient with recurrent BRBPR yesterday
   -IR evaluation and concluded with plans for TIPSS tomorrow of patient
   remains with reasonable stability over next 24 hours.  Octreotide
   started in addition.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-12-1**] 04:00 AM
   Metronidazole - [**2176-12-1**] 04:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2176-11-30**] 10:29 AM
   Insulin - Humalog - [**2176-12-1**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-1**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 83 (66 - 87) bpm
   BP: 129/58(76) {90/35(53) - 137/70(79)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  3,311 mL
                                                                  1,729 mL
   PO:
             TF:
   IVF:
                                                                  1,456 mL
                                                                  1,729 mL
   Blood products:
                                                                  1,855 mL
   Total out:
                                                                    420 mL
                                                                    350 mL
   Urine:
                                                                    420 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,891 mL
                                                                  1,379 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   62 K/uL
   198 mg/dL
   1.9 mg/dL
   17 mEq/L
   4.8 mEq/L
   50 mg/dL
   108 mEq/L
   135 mEq/L
   25.6 %
   5.6 K/uL
        [image002.jpg]
                            [**2176-11-29**]  03:47 PM
                            [**2176-11-29**]  11:34 PM
                            [**2176-11-30**]  12:14 AM
                            [**2176-11-30**]  01:28 AM
                            [**2176-11-30**]  10:07 AM
                            [**2176-11-30**]  03:33 PM
                            [**2176-12-1**]  01:42 AM
                            [**2176-12-1**]  07:25 AM
   WBC
   18.1
   5.3
   6.4
   5.7
   10.3
   7.4
   5.6
   Hct
   20.2
   20.3
   20.4
   21.5
   26.6
   22.9
   26.5
   25.6
   Plt
   191
   84
   82
   76
   99
   59
   62
   Cr
   1.8
   1.9
   Glucose
   238
   198
   Other labs: PT / PTT / INR:19.8/31.0/1.8, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Imaging: None new
   Microbiology: C. Diff negative
   urine culture negative
   Assessment and Plan
   64 yo male admit with bright red blood per rectum--he has had ongoing
   blood loss and has Sigmoidoscopy suggesting likely consequence of
   portal HTN driving bleeding.  He has had requirement for tranfusion
   over past 24 hours but no significant hemodynamic compromise.  Patient
   asking quite clear and reasonable questions in regards to decision
   making around procedure in regards to risks and benefits.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE I
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   -Likely portal venous source at level of rectum
   -2 P-IV's in place--16ga and 20 ga inright/Protonix in place
   -Plans for TIPSS tomorrow if remains with reasonable stability over
   next 24 hours
   -Octreotide gtt in place
   -BM this morning was an encouraging brown/soft BM
   -WIll Rx for UC-Solumedrol 60mg qd/Mesalamine
   -Cipro/Flagyl
   -THROMBOCYTOPENIA-
   -This has been a clear trend down since admission in the setting of
   volume initially
   -This may represent splenic sequestration in the setting of portal HTN
   most likely
   -With trend down, will have to monitor for PLT <30 to consider platelet
   transfusion and will defer to IR as far as need for transfusion
   peri-procedure
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2176-11-29**] 10:50 AM
   20 Gauge - [**2176-12-1**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2176-12-02 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   finished steroids
   d/ced propanolol per liver
   For TIPS by IR today, needs plts > 50, INR < 1.5
   getting predye load hydration, mucomyst
   HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-12-1**] 04:00 AM
   Metronidazole - [**2176-12-1**] 08:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Insulin - Humalog - [**2176-12-2**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-2**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.3
   HR: 61 (61 - 83) bpm
   BP: 114/58(72) {95/42(55) - 134/63(95)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  4,452 mL
                                                                    513 mL
   PO:
             TF:
   IVF:
                                                                  4,452 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    150 mL
   Urine:
                                                                    975 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,477 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   A/OX3, conversant, pleasant, ambulating
   Mild icterus
   Heart: RRR, No MRG. Non orthostatic
   Lungs: CTAB
   Abd: Distended w/ + fluid wave, BS+
   Ext: 2+ pitting edema to mid tibia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   9.4 g/dL
   175 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.7 mEq/L
   55 mg/dL
   111 mEq/L
   137 mEq/L
   27.2 %
   4.7 K/uL
        [image002.jpg]
                            [**2176-11-29**]  11:34 PM
                            [**2176-11-30**]  12:14 AM
                            [**2176-11-30**]  01:28 AM
                            [**2176-11-30**]  10:07 AM
                            [**2176-11-30**]  03:33 PM
                            [**2176-12-1**]  01:42 AM
                            [**2176-12-1**]  07:25 AM
                            [**2176-12-1**]  01:25 PM
                            [**2176-12-1**]  08:25 PM
                             [**2176-12-2**]  03:20 AM
   WBC
   5.3
   6.4
   5.7
   10.3
   7.4
   5.6
   5.8
   4.7
   Hct
   20.3
   20.4
   21.5
   26.6
   22.9
   26.5
   25.6
   27.5
   26.5
   27.2
   Plt
   84
   82
   76
   99
   59
   62
   57
   56
   Cr
   1.8
   1.9
   2.1
   Glucose
   238
   198
   175
   Other labs: PT / PTT / INR:20.5/32.1/1.9, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   # GI bleed: Likely bleeding started by UC and exacerbated by portal
   hypertension. Increased Hct appropriately last night, only one BRBPR
   this am only 10cc.
   -          Urgent TIPS if rebleeds
   -          Typed and crossed for 2 more units
   -          Follow stools
   -          Octreotide drip
   -          Plan for TIPS Monday
   -          Continue NPO
   .
   # Cirrhosis [**2-3**] NASH:  Has increasing ascities.  Baseline coagulopathy.
   - Liver team is aware, appreciate recommendations.
   - Avoid giving too much IVF
   - continue ursodial
   .
   # Thrombocytopenia: Baseline is 50-70s, likely secondary to
   NASH/cirrhosis/splenomegaly.  Drop is likely secondary to dehydration
   on admission and volume resuscitation with blood products.  If actively
   bleeding again would Tx platelets.
   -          Tx platelets if more bleeding
   -          F/u w/ IR as to what platelets/INR should be prior to TIPS
   .
   .
   # CRI: BL Cr 1.8-2.1.  Currently at BL.  Unclear etiology but has DM 2,
   HTN and cirrhosis.
   - Trend Cr
   - Monitor UOP
   - Bolus IVF if UOP drops <30cc/hr
   - avoid nephrotoxins
   - renally dose meds
   .
   # DM2:  Last HbA1c on [**10-9**] was 7.1.  Elevated finger sticks.
   - ISS
   .
   # FEN: NPO for now.  Will consider mIVF later in the day if patient is
   not receiving further blood products.
   .
   # PPx: PPI
   .
   # CODE: Full Code confirmed with patient
   .
   # COMM: Daughter [**First Name4 (NamePattern1) 2476**] [**Last Name (NamePattern1) 2477**] [**Telephone/Fax (1) 2478**]
   .
   # DISP: ICU until at least after TIPS.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2176-11-29**] 10:50 AM
   20 Gauge - [**2176-12-1**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-12-03 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2176-12-2**] 03:47 PM
   tips he did go w/ the first unit of FFP up.
 PARACENTESIS - At [**2176-12-2**] 10:30 PM
   paracentesis in IR
   [**Known lastname 2549**]
     * 6U FFP -> INR 1.8 -> went to IR w/2 U FFP hanging
     * had TIPS procedure done - had large clot in portal vein
     * octreotide d/c post TIPS
     * 3L ascites fluid off during TIPS -> given 25mg albumin
     * HCt drop 27.2 -> 22.2 VSS. Pt given 3L fluid in IR during procedure
       -> re-check Hct at 7am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-12-1**] 04:00 AM
   Metronidazole - [**2176-12-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-3**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.6
   HR: 67 (65 - 89) bpm
   BP: 136/49(71) {124/49(71) - 157/86(94)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 100% on 10L on venti mask (93-100) on RA to 10L
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  7,403 mL
                                                                    141 mL
   PO:
           TF:
   IVF:
                                                                  5,454 mL
                                                                     41 mL
   Blood products:
                                                                  1,949 mL
                                                                    100 mL
   Total out:
                                                                  4,750 mL
                                                                    265 mL
   Urine:
                                                                    550 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
                                                                  3,500 mL
   Balance:
                                                                  2,653 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   A/OX3, conversant, pleasant. NAD
   Mild icterus
   Heart: RRR, No MRG.
   Lungs: expiratory rhonchi
   Abd: Distended w/ + fluid wave, BS+ Non tender, no leaking or erthyema
   at tap site
   Ext: 2+ pitting edema decreased from yesterday
   Peripheral Vascular: 2+radial and DP pulses, symmetric.
   Labs / Radiology
   45 K/uL
   7.6 g/dL
   200 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   48 mg/dL
   107 mEq/L
   137 mEq/L
   22.2 %
   2.9 K/uL
        [image002.jpg]
   HCT am 21.5
   Blood 11/28 pending
   [**11-29**] urine neg
   [**11-29**] stool neg
   CXR: Increased PVC
                            [**2176-11-30**]  01:28 AM
                            [**2176-11-30**]  10:07 AM
                            [**2176-11-30**]  03:33 PM
                            [**2176-12-1**]  01:42 AM
                            [**2176-12-1**]  07:25 AM
                            [**2176-12-1**]  01:25 PM
                            [**2176-12-1**]  08:25 PM
                             [**2176-12-2**]  03:20 AM
                             [**2176-12-2**]  11:00 PM
                             [**2176-12-3**]  03:25 AM
   WBC
   5.7
   10.3
   7.4
   5.6
   5.8
   4.7
   2.9
   Hct
   21.5
   26.6
   22.9
   26.5
   25.6
   27.5
   26.5
   27.2
   22.2
   Plt
   76
   99
   59
   62
   57
   56
   45
   Cr
   1.8
   1.9
   2.1
   1.9
   Glucose
   238
   198
   175
   285
   200
   Other labs: PT / PTT / INR:19.5/35.6/1.8, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan: 64yo M with h/o ulcerative colitis and cirrhosis
   admitted for several bloody bowel movements.
   # GI bleed: Likely bleeding started by UC and exacerbated by portal
   hypertension. Is no longer having bloody bowel movements,  Got TIPS
   done yesterday. During procedure found to have portal vein clot not
   seen on US. Had 3L removed during para with TIPS. Given 25g albumin and
   3L IVF.  After tips HCT drop from 27.2 to 22.2, to 21.5. Felt to be
   dilutional, no further bloody BM, no abd pain to suggest subcapsular
   bleed.
   -          Liver no longer suspect UC flare, finished steroids.
   -          Per liver d/ced cipro and Flagyl as does not have UGI bleed
   in need of ppx.
   -          IR recs consider US abd to access for subcapsular bleed in
   HCT does not stabilize
   -          Follow stools
   -          Restart renal diet this am
   -          To receive 2 U pRBC, with 20 IV lasix prior and 20 IV lasix
   after infusion
   -          Check post transfusion HCT
   .
   # Cirrhosis [**2-3**] NASH:  Patient with ascites and coagulopathy.
   - f/u liver recs
   - Cointinue on mesalamine, ursodiol
   - Octreotide stoped post-procedure
   # SOB: Increased oxygen requirement after TIPS and 3L IVF.
   -          CXR shows increased PVC
   -          Started nebs
   .
   # Thrombocytopenia: Baseline is 50-70s, likely secondary to
   NASH/cirrhosis/splenomegaly.  Plt downtreanding to 42
   -Tx platelets if more bleeding
   .
   .
   # CRI: BL Cr 1.8-2.1.  Currently at baseline, decreased to 1.9.
   - Trend Cr
   - Monitor UOP, giving diuretics
   -pm lytes
   - avoid nephrotoxins
   - renally dose meds
   .
   # DM2:  Last HbA1c on [**10-9**] was 7.1.  Elevated finger sticks.
   - ISS , BG should be downtrending now that finished steroids.
   .
   # FEN: NPO for procedure. Has been NPO for a couple days, will need to
   reassess nutrition status post-procedure and when we can start feeding.
   On multivitamins.
   .
   # PPx: PPI, Pnuemoboots. Avoiding heparin with thrombocytopenia.
   .
   # CODE: Full Code confirmed with patient
   .
   # COMM: Daughter [**First Name4 (NamePattern1) 2476**] [**Last Name (NamePattern1) 2477**] [**Telephone/Fax (1) 2478**]
   .
   # DISP: to [**Doctor Last Name 2572**]/[**Doctor Last Name **] pending stable post transfusion HCT and
   improved SOB with diuresis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-12-1**] 01:30 AM
   18 Gauge - [**2176-12-2**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-12-03 10:06:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with cirrhosis and UC, went for TIPS yesterday for GIB.  Also
   had paracentesis by IR.  Patient doing well, although Hct dropped from
   27 to 21 post procedure and after giving albumin and multiple FFP.
   24 Hour Events:
 OR SENT - At [**2176-12-2**] 03:47 PM
   tips he did go w/ the first unit of FFP up.
 PARACENTESIS - At [**2176-12-2**] 10:30 PM
   paracentesis in IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-12-1**] 04:00 AM
   Metronidazole - [**2176-12-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   ursadiol
   SSI
   mesalamine
   mucomyst
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Edema
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea, no further
   bloody BM
   Genitourinary: No(t) Dysuria, Foley
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-12-3**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 76 (67 - 89) bpm
   BP: 137/63(81) {126/49(71) - 157/86(94)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                  7,403 mL
                                                                    291 mL
   PO:
           150 mL
   TF:
   IVF:
                                                                  5,454 mL
                                                                     41 mL
   Blood products:
                                                                  1,949 mL
                                                                    100 mL
   Total out:
                                                                  4,750 mL
                                                                    575 mL
   Urine:
                                                                    550 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
                                                                  3,500 mL
   Balance:
                                                                  2,653 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), increased
   expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   7.6 g/dL
   42 K/uL
   194
   1.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   48 mg/dL
   107 mEq/L
   137 mEq/L
   21.5 %
   2.7 K/uL
        [image002.jpg]
                            [**2176-11-30**]  03:33 PM
                            [**2176-12-1**]  01:42 AM
                            [**2176-12-1**]  07:25 AM
                            [**2176-12-1**]  01:25 PM
                            [**2176-12-1**]  08:25 PM
                             [**2176-12-2**]  03:20 AM
                             [**2176-12-2**]  11:00 PM
                             [**2176-12-3**]  03:25 AM
                             [**2176-12-3**]  06:00 AM
                             [**2176-12-3**]  06:55 AM
   WBC
   7.4
   5.6
   5.8
   4.7
   2.9
   2.7
   Hct
   22.9
   26.5
   25.6
   27.5
   26.5
   27.2
   22.2
   21.5
   Plt
   59
   62
   57
   56
   45
   42
   Cr
   1.9
   2.1
   1.9
   Glucose
   198
   175
   285
   200
   194
   Other labs: PT / PTT / INR:19.5/35.6/1.8, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Creatinine stable
 DIABETES MELLITUS (DM), TYPE II
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   No further BRBPR
   Anemia:   Blood loss could be dilutional versus bleeding associated
   with bleeding at the site, although not complaining of abdominal pain.
   Will transfuse and follow Hct.  Lasix for diuresis.
   Cirrhosis:  Cipro on SBP prophylaxis and flagyl for UC flare, will
   discuss with hepatology about course.
   Hyoxemia/SOB:  may be fluid overload, give lasix.  also will extensive
   smoking history, give nebs and check CXR for COPD as is quite
   rhoncherous on exam.
   Can call out if Hct stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-12-1**] 01:30 AM
   18 Gauge - [**2176-12-2**] 08:12 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2176-12-04 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -2u prbc, hct 26.9. chased w/lasix w/ good ouptput
   -cxr showed increased edema
   -stopped abx per GI
   -2 episode N/V, nonbloody stomach contents, felt better post-emesis,
   4mg zofran IV given.
   -called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2176-12-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-12-3**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-12-4**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 87 (68 - 103) bpm
   BP: 128/48(67) {114/47(65) - 154/67(82)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  1,651 mL
                                                                    120 mL
   PO:
                                                                    970 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     41 mL
   Blood products:
                                                                    640 mL
   Total out:
                                                                  4,535 mL
                                                                    460 mL
   Urine:
                                                                  4,535 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,884 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: 3L Nasal cannula
   SpO2: 94%
   ABG
   Physical Examination
   General: A/OX3, conversant, pleasant. NAD
   HEENT: NCAT, EOM intact. MMM. Mild icterus
   Heart: RRR, No MRG.
   Lungs: CTA b/l, no crackles noted
   Abd: Distended w/ + fluid wave, BS+ Non tender, no leaking or erthyema
   at tap site
   Ext: 2+ pitting edema all 4 extremities. 1cm x 1cm ulcerative lesion R
   medial ankle posterior to maleolus.
   Peripheral Vascular: 2+radial and DP pulses, symmetric.
   Labs / Radiology
   33 K/uL
   8.9 g/dL
   185 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   42 mg/dL
   108 mEq/L
   142 mEq/L
   25.2 %
   2.7 K/uL
        [image002.jpg]
                            [**2176-12-1**]  08:25 PM
                             [**2176-12-2**]  03:20 AM
                             [**2176-12-2**]  11:00 PM
                             [**2176-12-3**]  03:25 AM
                             [**2176-12-3**]  06:00 AM
                             [**2176-12-3**]  06:55 AM
                             [**2176-12-3**]  03:45 PM
                             [**2176-12-3**]  07:30 PM
                             [**2176-12-3**]  07:32 PM
                             [**2176-12-4**]  04:08 AM
   WBC
   4.7
   2.9
   2.7
   3.2
   2.7
   Hct
   26.5
   27.2
   22.2
   21.5
   26.9
   26.9
   25.2
   Plt
   56
   45
   42
   41
   33
   Cr
   2.1
   1.9
   1.7
   1.8
   1.7
   Glucose
   175
   285
   200
   194
   190
   195
   185
   Other labs:
   PT / PTT / INR:20.4/34.3/1.9
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Cdiff, stool O&P, stool Cx negative
   KUB: no evidence of obstruction
   CXR: B/L pleural effusions/mild-mod pulm edema
   Assessment and Plan
   A/P: 64 y/o man with h/o cirrhosis and ulcerative colitis w/lower GI
   bleed now 2d s/p TIPS procedure.
   # GI bleed: Known Ulcerrative colitis. Had multiple oozing lesions on
   sigmoidoscopy and it was thought that his oozing would not stop until
   his portal HTN was relieved. His Hct was 17.9 on presentation, he
   recieved 6U PRBCs and his HCT went up to 26 and then dropped back to
   22. He was given 2 more U PRBC's. His UOP dropped on [**11-30**] to 20cc/hr
   and he was given several boluses of fluid and his UOP improved. Is no
   longer having bloody bowel movements,  Got TIPS done [**12-3**]. During
   procedure found to have portal vein clot. Had 3L removed during para
   with TIPS. Given 25g albumin and 3L IVF.  After tips HCT drop from 27.2
   to 22.2, to 21.5. Felt to be dilutional, no further bloody BM, no abd
   pain to suggest subcapsular bleed. Liver no longer suspect UC flare,
   finished steroids course. Per liver d/ced cipro and Flagyl as does not
   have UGI bleed in need of ppx. IR reccomends consider US abd to access
   for subcapsular bleed if HCT does not stabilize. Received 2 U pRBC,
   with 20 IV lasix prior and 20 IV lasix after infusion w/good urine
   output. Hct stable 12h post-transfusion and patient is asymptomatic
   >24h post-TIPS procedure.
   - Follow stools
   - Follow HCT
   .
   # Cirrhosis [**2-3**] NASH:  Patient with ascites and coagulopathy. Underwent
   TIPS [**12-2**] to correct  portal hypertension. Stoped Octreotide post
   procedure. Per liver to Cointinue on mesalamine, ursodiol.
   .
   # SOB: Increased oxygen requirement after TIPS and 3L IVF. CXR c/w
   fluid overload, patient with anasarca. Started nebs and gave Lasix
   boluses. Breathing improved with lasix boluses, but still requiring 3L
   NC O2 to maintain O2 sat in 90's.
   - Lasix boluses, follow electrolytes
   .
   # Thrombocytopenia: Baseline is 50-70s, likely secondary to
   NASH/cirrhosis/splenomegaly.  Plt downtreanding to 33. Hold transfusion
   unless signs of active bleeding.
   .
   # Elevated INR: likely due to cirrhosis. Given several units of FFP
   before TIPS procedure with INR never dropping below 1.8. 24h post
   procedure, INR is 1.9.
   .
   # CRI: BL Cr 1.8-2.1.  Currently at baseline, decreaseded to 1.9.
   - Trend Cr
   - Monitor UOP, giving diuretics
   - pm lytes
   - avoid nephrotoxins
   - renally dose meds
   .
   # DM2:  Last HbA1c on [**10-9**] was 7.1.  Elevated finger sticks. ISS and
   long-acting insulin titrated up during patient's stay. Added 15U
   Glargine QHS on [**12-4**].
   - to follow
   .
   # Constipation: lactulose held b/c of GI bleeding, patient with poor PO
   intake for last few days, likely contributing to constipation. KUB
   w/out evidence for obstruction.
   - lactulose
   .
   # R medial ankle ulcer: Likely due to friction from footwear as per
   patient. Good DP pulses, should heal well.  Wound care consulted.
   - follow wound care recs.
   .
   # Vomiting: N/V yesterday. Unclear etiology. Improved with Zofran.
   .
   # PPx: PPI, Pnuemoboots. Avoiding heparin with thrombocytopenia.
   .
   # FEN: Was NPO for procedure and for days with active GIB, restarted
   renal diet. On multivitamins.
   .
   # CODE: Full Code confirmed with patient
   .
   # COMM: Daughter [**First Name4 (NamePattern1) 2476**] [**Last Name (NamePattern1) 2477**] [**Telephone/Fax (1) 2478**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-12-1**] 01:30 AM
   18 Gauge - [**2176-12-2**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-12-04 11:10:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo man with UC and cirrhosis:  s/o TIPS for LGIB.  Had some
   increased hypoxemia and worsened edema on CXR and worsened anasarca.
   Responded to lasix.  Hct has been stable.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2176-12-1**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-12-4**] 08:15 AM
   Other medications:
   asacol
   MVI
   protonix
   ursadiol
   lantis
   SSI
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Diarrhea, Constipation
   Flowsheet Data as of  [**2176-12-4**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 81 (68 - 103) bpm
   BP: 130/48(66) {114/47(65) - 150/67(81)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  1,651 mL
                                                                    120 mL
   PO:
                                                                    970 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     41 mL
   Blood products:
                                                                    640 mL
   Total out:
                                                                  4,535 mL
                                                                  1,480 mL
   Urine:
                                                                  4,535 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,884 mL
                                                                 -1,360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   33 K/uL
   185 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   42 mg/dL
   108 mEq/L
   142 mEq/L
   25.2 %
   2.7 K/uL
        [image002.jpg]
                            [**2176-12-1**]  08:25 PM
                             [**2176-12-2**]  03:20 AM
                             [**2176-12-2**]  11:00 PM
                             [**2176-12-3**]  03:25 AM
                             [**2176-12-3**]  06:00 AM
                             [**2176-12-3**]  06:55 AM
                             [**2176-12-3**]  03:45 PM
                             [**2176-12-3**]  07:30 PM
                             [**2176-12-3**]  07:32 PM
                             [**2176-12-4**]  04:08 AM
   WBC
   4.7
   2.9
   2.7
   3.2
   2.7
   Hct
   26.5
   27.2
   22.2
   21.5
   26.9
   26.9
   25.2
   Plt
   56
   45
   42
   41
   33
   Cr
   2.1
   1.9
   1.7
   1.8
   1.7
   Glucose
   175
   285
   200
   194
   190
   195
   185
   Other labs: PT / PTT / INR:20.4/34.3/1.9, Amylase / Lipase:/32, Lactic
   Acid:1.9 mmol/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: C. Diff negative.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II:  increase lantis and SSI
 LEUKOCYTOSIS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   No further bleeding.
   SOB/pulmonary edema;  Due to products and increase in venous return
   from TIPS.  Now improved.  Continue diuresis.
   Cirrhosis:  will restart lactulose has he has had not BMs, but passing
   gas.
   Anemia/thrombocytopenia:  hct slightly lower today, continue to watch.
   Follow platelet count.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-12-2**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Transfer to floor
   Total time spent: 35 minutes